US09023865B2
A microwave vial was charged with 6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridine (1.02 g, 2.58 mmol), Pd2(dba)3 (0.24 g, 0.262 mmol), 2-(dicyclohexylphosphino) biphenyl (0.1 g, 0.285 mmol) and THF (11 mL). The mixture was evacuated and purged with nitrogen 5 times. Lithium bis(trimethylsilyl)amide (4.0 ml, 4.0 mmol, 1M in THF) was added dropwise and the mixture was heated at 70° C. for 2 h. Pd2(dba)3 (0.12 g, 0.131 mmol), 2-(dicyclohexylphosphino) biphenyl (0.05 g, 0.142 mmol) and LiHMDS (2.0 ml, 2.0 mmol, 1M in THF) were added again. After 16 h, the mixture was quenched with saturated NH4Cl and extracted with 2-methyltetrahydrofuran. The organic phase was washed with water, brine, dried (Na2SO4) and concentrated in vacuo to afford a residue, which was purified by chromatography on silica gel (MeOH in DCM, 0-8% 15 CV, 8-10% 10 CV) to afford 1-trityl-1H-pyrazolo[4,3-c]pyridin-6-amine (0.813 g, 2.16 mmol, 84%). MS ESI calc'd. for C25H21N4 [M+H]+ 377, found 377.

reactant | 6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridine | 2.58 mmol, 1.02 g | ClC1=CC2=C(C=N1)C=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C25H18ClN3
reactant | 2-(dicyclohexylphosphino) biphenyl | 0.285 mmol, 0.1 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
reactant | Lithium bis(trimethylsilyl)amide | 4.0 mmol, 1M, 4.0 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | LiHMDS | 2.0 mmol, 1M, 2.0 ml | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
catalyst | Pd2(dba)3 | 0.262 mmol, 0.24 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Pd2(dba)3 | 0.131 mmol, 0.12 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 2-(dicyclohexylphosphino) biphenyl | 0.142 mmol, 0.05 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
solvent | THF | 11 mL | C1CCOC1 | C4H8O
product | 1-trityl-1H-pyrazolo[4,3-c]pyridin-6-amine | 2.16 mmol, 0.813 g, 84% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=CC=2C=NC(=CC21)N | C25H20N4
